US07244759B2
To a solution of 7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one (1.8 g, 4.5 mmol), cyclopropane carboxaldehyde (0.47 mL, 6.3 mmol), and acetic acid (1.6 mL, 28 mmol) in 1,2-dichloroethane (20 mL), was added sodium triacetoxyborohydride (1.4 g, 6.7 mmol) at room temperature. After 1.5 hours, the mixture was extracted with methylene chloride (50 mL) and water (20 mL). The organic layer was washed with sodium hydrogen carbonate (sat, 25 mL) and brine (25 mL), and dried over MgSO4. Removal of solvent gave a yellow oil, which was purified by prep HPLC to give (1S)-7-(Cyclopropylmethyl-amino)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one as a white solid (1.6 g, 79% yield): mp 147-149° C.; 1H NMR (CDCl3) δ 0.25-0.31 (m, 2H, CH2), 0.55-0.62 (m, 2H, CH2), 1.09-1.20 (m, 1H, CH), 1.45 (t, J=7 Hz, 3H, CH3), 2.93 (s; 3H, CH3), 3.03-3.08 (m, 2H, CH2), 3.67 (dd, J=5, 15 Hz, 1H, CHH), 3.85 (s, 3H, CH3), 4.08 (q, J=7 Hz, 2H, CH2), 4.18 (d, J=17 Hz, 1H, CHH), 4.29 (dd, J=10, 15 Hz, 1H, CHH), 4.34 (d, J=17 Hz, 1H, CHH), 5.62 (dd, J=5, 10 Hz, 1H, NCH), 6.47-6.55 (m, 2H, Ar), 6.69 (t, J=5 Hz, 1H, NH), 6.83 (d, J=8 Hz, 1H, Ar), 6.91-6.95 (m, 2H, Ar), 7.21-7.30 (m, 1H, Ar); 13C NMR (CDCl3) δ 3.57, 10.63, 14.71, 41.42, 47.52, 48.09, 52.04, 55.98, 56.39, 64.60, 108.35, 109.21, 111.48, 112.32, 113.77, 119.37, 130.45, 133.64, 142.78, 147.50, 148.79, 149.54, 171.16. Analy. calculated for C24H30N2O5S: C, 62.86; H, 6.59; N, 6.11. Found: C, 62.77; H, 6.62; N, 6.13.

reactant | 7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one | 4.5 mmol, 1.8 g | NC=1C=CC=C2CN(C(C12)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C20H24N2O5S
reactant | cyclopropane carboxaldehyde | 6.3 mmol, 0.47 mL | C1(CC1)C=O | C4H6O
reactant | acetic acid | 28 mmol, 1.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.7 mmol, 1.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | (1S)-7-(Cyclopropylmethyl-amino)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one | 1.6 g, 79% yield | C1(CC1)CNC=1C=CC=C2CN(C(C12)=O)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C24H30N2O5S
